US04461907
4'-Hydroxyflavan (2.26 g.), ethylene carbonate (8.8 g.) and tetramethylammonium iodide (0.30 g.) were heated together at 140° C. for 4 hrs. Sodium hydroxide (6.5 g) in water (20 ml.) and ethanol (250 ml.) was added, and the solution boiled under reflux for 5 hrs. The solution was filtered, diluted with water, and extracted 3 times with ether. The combined extracts were dried and evaporated, and the residue chromatographed on neutral alumina. The product was eluted with chloroform and after evaporation of the solvent was recrystallised from 60°-80° C. petroleum ether to yield 4'-(2-hydroxyethoxy) flavan (1.2 g.) m.p. 84°-85° C.

reactant | 4'-Hydroxyflavan | 2.26 g | OC1=CC=C(C2OC3=CC=CC=C3CC2)C=C1 | C15H14O2
reactant | ethylene carbonate | 8.8 g | C1(OCCO1)=O | C3H4O3
reactant | Sodium hydroxide | 6.5 g | [OH-].[Na+]
catalyst | tetramethylammonium iodide | 0.30 g | [I-].C[N+](C)(C)C
solvent | water | 20 ml | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4'-(2-hydroxyethoxy) flavan | 1.2 g | OCCOC1=CC=C(C2OC3=CC=CC=C3CC2)C=C1 | C17H18O3
